US09403835B2
Step 1: (S)-3-(5-fluoro-2-formyl-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester
tBuOK (434 mg; 3.87 mmol; 1.1 eq.) was added to a solution of 2,4-difluoro-benzaldehyde (500 mg; 3.52 mmol; 1 eq.) and (S)-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (779 mg; 3.87 mmol; 1.1 eq.) in 1,4-dioxane (3 mL) and reaction mixture was stirred at room temperature for 15 minutes. The solution was diluted with water and extracted with DCM. The organic layer was dried over magnesium sulfate and concentrated in vacuo. Purification by column chromatography (heptanes/EA) afforded the title compound (208 mg, 18%) as white solid. HPLC (max plot) 92.8%; Rt 4.46 min.

reactant | tBuOK | 3.87 mmol, 434 mg, 1.1 eq. | C(C)(C)(C)O[K]
reactant | 2,4-difluoro-benzaldehyde | 3.52 mmol, 500 mg, 1 eq. | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
reactant | (S)-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 3.87 mmol, 779 mg, 1.1 eq. | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)O | C10H19NO3
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | (S)-3-(5-fluoro-2-formyl-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | 208 mg, 18% | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)OC1=C(C=CC(=C1)F)C=O | C17H22FNO4
